US07067517B2
4-Chlor-phenyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to flash chromatography (ethyl acetate/heptan, 1:5) (77%, white crystals). HPLC-MS m/z=423.1 (M+1), Rt: 5.3 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide | [I-].ClC1=CC=C(C=C1)N(C(=O)N1C=[N+](C=C1)C)C
solvent | ethyl acetate heptan | C(C)(=O)OCC.CCCCCCC
product | 4-Chlor-phenyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)Cl)=O)(F)F | C20H14ClF3N2O3
